US04369309
3,4-Dihydro-2-hydroxymethyl-2H-(1,3)-thiazino-[3,2-a]benzimidazole:
To a solution of 2.48 g (10 m mole) of 3,4-dihydro-2-methoxycarbonyl-2H-(1,3)-thiazino-[3,2-a]benzimidazole in dry tetrahydrofuran (50 ml) was added dropwise 0.5 g of lithium aluminum hydride devided in small pieces, with stirring under ice cooling condition. After thirty minutes, the resultant complex was decomposed by the addition of hydrated tetrahydro furan and subjected to filtration. Subsequent to drying the filtrate over anhydrous magnesium sulfate, tetrahydrofuran was evaporated under reduced pressure. The residue was chromatographed on silica gel and eluted with chloroform to obtain 1.2 g (yield: 54.5%) of the intended product, m.p. 112°-113° C.;

reactant | 3,4-dihydro-2-methoxycarbonyl-2H-(1,3)-thiazino-[3,2-a]benzimidazole | 2.48 g | COC(=O)C1CCN2C(=NC3=C2C=CC=C3)S1 | C12H12N2O2S
reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-2-hydroxymethyl-2H-(1,3)-thiazino-[3,2-a]benzimidazole | 1.2 g, yield: 54.5% | OCC1CCN2C(=NC3=C2C=CC=C3)S1 | C11H12N2OS
